US08865934B2
In a preferred embodiment of the present invention, in step (a), the 2-aminophenol solution may be maintained at a pH of 2-5 while hydrochloride gas is added thereto, and as a result, 2-aminophenol hydrochloride can be obtained in solid form. In step (b), the solution of 2-aminophenol hydrochloride in ethanol may be reacted with isopentyl nitrite at about −5° C. to make the nitramide intermediate. In step (c), the solution of the intermediate in ethanol may be added slowly to the ethanol solution containing para-toluenesulfonic acid (PTSA or TsOH) and tin chloride (SnCl2) at low temperature (−5° C.), thereby obtaining 2-hydrazinylphenol tosylate.

reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | hydrochloride | Cl | ClH
product | 2-aminophenol hydrochloride | Cl.NC1=C(C=CC=C1)O | InChI=1S/C6H7NO.ClH/c7-5-3-1-2-4-6(5)8;/h1-4,8H,7H2;1H
